US07776910B2
A solution of HCl (4 M in 1,4-dioxane, 0.3 mL, 1.2 mmol) was added to a solution of 3-[4-(3-fluoro-benzenesulfonyl)-2-(2-hydroxy-ethoxy)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (100 mg, 0.215 mmol) in 1,4-dioxane (1 mL) under nitrogen atmosphere. The reaction mixture was stirred for 4 hours The solvent was then evaporated under reduced pressure to give 82 mg of 2-[5-(3-fluoro-benzenesulfonyl)-2-pyrrolidin-3-yl-phenoxy]-ethanol hydrochloride as a foam. MS (M+H)=366.

reactant | HCl | 1.2 mmol, 4 M, 0.3 mL | Cl | ClH
reactant | 3-[4-(3-fluoro-benzenesulfonyl)-2-(2-hydroxy-ethoxy)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.215 mmol, 100 mg | C(C)(C)(C)OC(=O)N1CC(CC1)C1=C(C=C(C=C1)S(=O)(=O)C1=CC(=CC=C1)F)OCCO | C23H28FNO6S
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 2-[5-(3-fluoro-benzenesulfonyl)-2-pyrrolidin-3-yl-phenoxy]-ethanol hydrochloride | 82 mg | Cl.FC=1C=C(C=CC1)S(=O)(=O)C=1C=CC(=C(OCCO)C1)C1CNCC1 | InChI=1S/C18H20FNO4S.ClH/c19-14-2-1-3-15(10-14)25(22,23)16-4-5-17(13-6-7-20-12-13)18(11-16)24-9-8-21;/h1-5,10-11,13,20-21H,6-9,12H2;1H
